US08754107B2
A solution of 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (preparation #5) (4.3 g, 13.1 mmol) in 4N HCl/dioxane (7 mL) was stirred at ambient temperature for about 16 h. The precipitate was collected by filtration, rinsed with Et2O (20 mL) and dried in vacuo to afford 4-phenyl-1-pyrrolidin-3-yl-piperidine dihydrochloride (2.4 g, 61%) as a hygroscopic beige solid that was used in subsequent reaction without further purification. RP-HPLC (Table 1, Method d) Rt 1.67 min; m/z: (M+H)+ 231.

reactant | 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 13.1 mmol, 4.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)N1CCC(CC1)C1=CC=CC=C1 | C20H30N2O2
reactant | HCl dioxane | 4N, 7 mL | Cl.O1CCOCC1
product | 4-phenyl-1-pyrrolidin-3-yl-piperidine dihydrochloride | 2.4 g, 61% | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C1CNCC1 | InChI=1S/C15H22N2.2ClH/c1-2-4-13(5-3-1)14-7-10-17(11-8-14)15-6-9-16-12-15;;/h1-5,14-16H,6-12H2;2*1H
